*200CNQ040 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 40V 200A 3us pkg:TO-244 1,2,3
.SUBCKT 200CNQ040 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=284N RS=210U N=1.7 BV=40 IBV=0.4
+ CJO=8.22N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 200CNQ040

